US04939241
To a solution of O-L-threonyl-N-trifluoroacetyl-L-homoserine (800 mg) and 4M aqueous chloroacetic acid (100 μl) in water (10 ml) was added sodium nitrite (345 mg) at room temperature. After stirring for 15 minutes at room temperature, the reaction mixture was neutrized with 2M tris buffer solution to pH 7.0 to 7.3 and then Acylase I (acylase, Sigma A-7264, made by Sigma Chemicals) (100 mg) was added. The mixture was stirred for 5 hours at 35° C. and chromatographed on carbon (50 ml) eluting successively with water and a 9:1 mixture of water and acetone to give O-[2-diazo-3(R)-hydroxy-1-oxobutyl]-L-homoserine (28 mg).

reactant | O-L-threonyl-N-trifluoroacetyl-L-homoserine | 800 mg | N[C@@H]([C@H](O)C)C(=O)OCC[C@H](NC(C(F)(F)F)=O)C(=O)O | C10H15F3N2O6
reactant | chloroacetic acid | 4M, 100 μl | ClCC(=O)O | C2H3ClO2
reactant | sodium nitrite | 345 mg | N(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
product | O-[2-diazo-3(R)-hydroxy-1-oxobutyl]-L-homoserine | 28 mg | [N+](=[N-])=C(C(=O)OCC[C@H](N)C(=O)O)[C@@H](C)O | C8H13N3O5
